US06964961B2
B. 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid methyl-pyridin-4-ylmethyl-amide
The title compound was prepared from 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid methyl-pyridin-4-ylmethyl-amide and 2-methyl-1H-indol-5-ylamine by a method analogous to Example 1C. MS: 428 (MH+); HPLC Rf: 4.26 min; HPLC purity: 93%.

reactant | 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid methyl-pyridin-4-ylmethyl-amide | CN(C(=O)C1=CC2=NC=CC(=C2S1)Cl)CC1=CC=NC=C1 | C15H12ClN3OS
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid methyl-pyridin-4-ylmethyl-amide | CN(C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C)CC1=CC=NC=C1 | C24H21N5OS
